US06727264B1
According to the procedure used for the synthesis of N-(3-{1-[3-(1,2-diphenyl-1H-indol-3-yl)propyl]-4-piperidinyl}phenyl)-2-methylpropanamide, 2-methyl-N-{3-[1-(4-oxo-4-phenylbutyl)-4-piperidinyl]phenyl}propanamide (8.70 mg, 0.0223 mmol) and 2-hydrazinopyridine (2.92 mg, 0.0268 mmol) provided 2-methyl-N-(3-{1-[(4E)-4-phenyl-4-(2-pyridinylhydrazono)butyl]-4-piperidinyl}phenyl)propanamide (2.5 mg, 24%). 1H NMR (400 MHz, CDCl3) δ 7.97 (d, 1H, J=8.6 Hz), 7.85 (d, 1H, J=7.3 Hz), 7.64-7.27 (m, 9H), 7.09 (d, 1H, J=8.0 Hz), 6.97 (d, 1H, J=8.4 Hz), 6.73 (q, 1H, J=6.6 Hz), 3.52-3.48 (m, 2H), 3.20-3.10 (m, 2H), 2.85-1.75 (m, 13H), 1.26 (d, 6H, J=6.8 Hz); ESMS m/e: 484.4 (M+H)+.

reactant | N-(3-{1-[3-(1,2-diphenyl-1H-indol-3-yl)propyl]-4-piperidinyl}phenyl)-2-methylpropanamide | C1(=CC=CC=C1)N1C(=C(C2=CC=CC=C12)CCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C38H41N3O
reactant | 2-methyl-N-{3-[1-(4-oxo-4-phenylbutyl)-4-piperidinyl]phenyl}propanamide | 0.0223 mmol, 8.70 mg | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCC(C1=CC=CC=C1)=O)C | C25H32N2O2
reactant | 2-hydrazinopyridine | 0.0268 mmol, 2.92 mg | N(N)C1=NC=CC=C1 | C5H7N3
product | 2-methyl-N-(3-{1-[(4E)-4-phenyl-4-(2-pyridinylhydrazono)butyl]-4-piperidinyl}phenyl)propanamide | 2.5 mg, 24% | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCC\C(=N/NC1=NC=CC=C1)\C1=CC=CC=C1)C | C30H37N5O
